US08541411B2
b) N-(2-methyl-6-morpholino-1-(naphthalen-1-ylmethyl)-1H-benzo[d]imidazol-4-yl)methanesulfonamide
To a solution of 2-methyl-6-morpholino-1-(naphthalen-1-ylmethyl)-1H-benzo[d]imidazol-4-amine (186 mg), Et3N (0.15 mL) and DCM (20 mL) was added a solution of methanesulfonyl chloride (69 mg) in DCM at 0° C. and then the mixture was stirred at room temperature for 1 h. The mixture was diluted with DCM and washed with brine, dried over anhydrous Na2SO4, filtered and concentrated in-vacuo. The residue was then purified by silica gel chromatography eluted with MeOH:DCM=1:30 to afford the desired product as a solid (180 mg, 80%). 1H NMR (300 MHz, DMSO-d6) δ ppm 2.40 (s, 3H), 2.98 (t, 4H, J=4.8 Hz), 3.21 (s, 3H), 3.68 (t, 4H, J=4.8 Hz), 5.96 (s, 2H), 6.37 (d, 1H, J=8.1 Hz), 6.80 (s, 2H), 7.35 (t, 1H, J=8.1 Hz), 7.60-7.71 (m, 2H), 7.85 (d, 1H, J=8.1 Hz), 8.01 (d, 1H, J=8.1 Hz), 8.24 (d, 1H, J=8.1 Hz), 9.49 (br s, 1H); LC-MS: m/e=451 [M+1]+.

reactant | 2-methyl-6-morpholino-1-(naphthalen-1-ylmethyl)-1H-benzo[d]imidazol-4-amine | 186 mg | CC1=NC2=C(N1CC1=CC=CC3=CC=CC=C13)C=C(C=C2N)N2CCOCC2 | C23H24N4O
reactant | Et3N | 0.15 mL | CCN(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 69 mg | CS(=O)(=O)Cl | CH3ClO2S
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | N-(2-methyl-6-morpholino-1-(naphthalen-1-ylmethyl)-1H-benzo[d]imidazol-4-yl)methanesulfonamide | 180 mg, 80% | CC1=NC2=C(N1CC1=CC=CC3=CC=CC=C13)C=C(C=C2NS(=O)(=O)C)N2CCOCC2 | C24H26N4O3S
